US09034900B2
Step 3: 4-bromo-2-methyl-6-pyridin-2-ylisoquinolin-1-one
At 0° C., bromine (78 mg, 0.49 mmol) in acetic acid (0.3 mL) was added dropwise to 2-methyl-6-pyridin-2-ylisoquinolin-1-one (115 mg, 0.49 mmol) in acetic acid (20 mL). The mixture was stirred at room temperature for 20 min. Extractive work up with CH2Cl2 and purification by silica gel chromatography (PE:EA=5:1˜1:1) gave the title compound (73.0 mg, 47.7%) as a yellow solid. 1H NMR (CDCl3, 400 MHz) δ 8.79 (d, J=4.4 Hz, 1H), 8.55 (d, J=8.4 Hz, 1H), 8.44 (s, 1H), 8.19 (d, J=8.8 Hz, 1H), 7.90 (d, J=8.0 Hz, 1H), 7.85 (t, J=7.2 Hz, 1H), 7.42 (s, 1H), 7.36-7.34 (m, 1H), 3.64 (s, 3H). LCMS: 314.9 (M+H)+

reactant | bromine | 0.49 mmol, 78 mg | BrBr | Br2
reactant | 2-methyl-6-pyridin-2-ylisoquinolin-1-one | 0.49 mmol, 115 mg | CN1C(C2=CC=C(C=C2C=C1)C1=NC=CC=C1)=O | C15H12N2O
solvent | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-2-methyl-6-pyridin-2-ylisoquinolin-1-one | 73.0 mg, 47.7% | BrC1=CN(C(C2=CC=C(C=C12)C1=NC=CC=C1)=O)C | C15H11BrN2O
